US04202949
α,α'-bis-(4-hydroxyphenyl)-p-diisopropylbenzene.
The polycarbonates may be branched by the incorporation of small quantities of polyhydroxy compounds, for example from 0.05 to 2.0 mole % (based on the bisphenols used). Polycarbonates of this type are described, for example, in German Offelengungsschrifts Nos. 1,570,533; 2,116,974; 2,113,347; in British Patent Nos. 885,442; 1,079,821 and in U.S. Pat. No. 3,544,514. Some of the polyhydroxy compounds which may be used are, for example, phloroglucinol, 4,6-dimethyl-2,4,6-tri-(4-hydroxyphenyl)-heptane, 1,3,5-tri-(4-hydroxyphenyl)-benzene, 1,1,1-tri-(4-hydroxyphenyl)-ethane, tri-(4-hydroxyphenyl)-phenyl methane, 2,2-bis-[4,4-(4,4'-dihydroxydiphenyl)-cyclohexyl]-propane, 2,4-bis-(4-hyroxyphenyl 4-isopropyl)-phenol, 2,6-bis-(2'-hydroxy-5-methylbenzyl)-4-methylphenol, 2,4-dihydroxybenzoic acid, 2-(4-hydroxyphenyl)-2-(2,4-dihydroxyphenyl)-propane, 1,4-bis-(4',4"-dihydroxytriphenylmethyl)-benzene.

reactant | phloroglucinol | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 4,6-dimethyl-2,4,6-tri-(4-hydroxyphenyl)-heptane | CC(CC(C)C1=CC=C(C=C1)O)(CC(C)(C1=CC=C(C=C1)O)C)C1=CC=C(C=C1)O | C27H32O3
reactant | 1,3,5-tri-(4-hydroxyphenyl)-benzene | OC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C24H18O3
reactant | 1,1,1-tri-(4-hydroxyphenyl)-ethane | OC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C20H18O3
reactant | tri-(4-hydroxyphenyl)-phenyl methane | OC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C25H20O3
reactant | 2,6-bis-(2'-hydroxy-5-methylbenzyl)-4-methylphenol | OC1=C(CC2=C(C(=CC(=C2)C)CC2=C(C=CC(=C2)C)O)O)C=C(C=C1)C | C23H24O3
reactant | 2,4-dihydroxybenzoic acid | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | 2-(4-hydroxyphenyl)-2-(2,4-dihydroxyphenyl)-propane | OC1=CC=C(C=C1)C(C)(C)C1=C(C=C(C=C1)O)O | C15H16O3
product | α,α'-bis-(4-hydroxyphenyl)-p-diisopropylbenzene | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C24H26O2
